US06420409B1
Ethyl 4-(acetylamino)-3-aminobenzoate (6.34 g), 4-acetoxy-2-chlorobenzyl bromide (14.0 g), potassium carbonate (5.12 g), and sodium iodide (1.28 g) were added to ethyl acetate (35 ml) and uo (13 ml) and the whole was stirred for 15 hours at 70° C. The organic layer was separated, washed with water, and concentrated under reduced pressure. Ethanol (30 ml) and 35% hydrochloric acid (3.2 g) were added to the oily residue and the mixture was stirred for 3 hours at 70° C. After extraction of the reaction solution with ethyl acetate and water, the organic layer was separated and concentrated. The residue was crystallized by addition of ethanol. Crystals obtained by filtration was dried to obtain 1-(2-chloro-4-hydroxybenzyl)-6-(ethoxycarbonyl)-2-methylbenzimidazole (1.53 g).

reactant | Ethyl 4-(acetylamino)-3-aminobenzoate | 6.34 g | C(C)(=O)NC1=C(C=C(C(=O)OCC)C=C1)N | C11H14N2O3
reactant | 4-acetoxy-2-chlorobenzyl bromide | 14.0 g | C(C)(=O)OC1=CC(=C(CBr)C=C1)Cl | C9H8BrClO2
reactant | potassium carbonate | 5.12 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 1.28 g | [I-].[Na+]
solvent | ethyl acetate | 35 ml | C(C)(=O)OCC | C4H8O2
product | 1-(2-chloro-4-hydroxybenzyl)-6-(ethoxycarbonyl)-2-methylbenzimidazole | 1.53 g | ClC1=C(CN2C(=NC3=C2C=C(C=C3)C(=O)OCC)C)C=CC(=C1)O | C18H17ClN2O3
